US04082771
tert-Butyl-5-methyl-2-furylcarbamate, (mp 80° C, 24 g, 0.12 mole) prepared as in Example 1 from 5-methyl-2-furoic acid was reacted as in Example 2 to give 2-isobutanamido-5-methylfuran (13.4 g) mp 78° C which was then reacted as in Example 4 to give the title compound. b.p. 94° C/0.3 mm.

reactant | tert-Butyl-5-methyl-2-furylcarbamate | 0.12 mole, 24 g | C(C)(C)(C)OC(NC=1OC(=CC1)C)=O | C10H15NO3
reactant | 5-methyl-2-furoic acid | CC1=CC=C(O1)C(=O)O | C6H6O3
product | 2-isobutanamido-5-methylfuran | 13.4 g | C(C(C)C)(=O)NC=1OC(=CC1)C | C9H13NO2
